* C:\Users\You\Documents\Project-Margay\Hardware\Simulation\Draft3.asc
V1 N001 0 PULSE(0 5 1e-3 1e-9 1e-9 2e-3 4e-3 2)
R1 N001 0 1k
R2 N002 0 1k
V2 N002 0 PULSE(0 7 2e-3 1e-9 1e-9 1e-3 2e-3 2)
Q1 N004 N004 N001 0 2N3906
Q2 N003 N004 N002 0 2N3906
R3 N004 0 10Meg
R4 N003 0 10Meg
M1 N001 N003 N002 N002 RRS040P03
.model NPN NPN
.model PNP PNP
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10e-3
.backanno
.end
