* C:\Users\You\Documents\Project-Margay\Hardware\Simulation\Draft4.asc
M1 N003 N001 N002 N002 FDC638P
R1 N002 0 1Meg
R2 N001 N002 180k
M2 N001 N004 0 0 2N7002
R3 N004 0 10k
V3 N002 0 3.3
R4 N003 0 10Meg
R5 N004 0 10Meg
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10e-3
.backanno
.end
